US06362191B1
N-([(5S)-N-(4-[pyrrol-2-ylcarbonyl]phenyl)-2-oxooxazolidin-5-yl]methyl)acetamide
A solution of N-([(5S)-N-(4-[1-(2-trimethylsilylethoxymethyl)pyrrol-2-ylcarbonyl]phenyl)-2-oxooxazolidin-5-yl]methyl)acetamide (0.79 g, 1.72 mM) in dry THF (15 ml) was stirred under nitrogen and treated dropwise with a solution of tetrabutylammonium fluoride in THF (1 M, 8.6 mM). The solution was stirred for 2.5 hours and then heated at reflux for 4 hours. The solution was evaporated and the residue partitioned between EtOAc and water. The organic layer was washed with water, dried (Mg SO4) and evaporated. The residue was purified by column chromatography, eluting with a gradient increasing in polarity from 2% to 10% MeOH/dichloromethane to give the title product as a solid (0.16 g). Mp 202-205° C., MS: 328 (MH+). NMR: 1.97 (3H, s); 3.42 (nH+H2O); 3.58 (2H, t); 3.94 (1H, m); 4.32 (1H, t); 4.89 (1H, m); 6.40 (1H, m); 6.93 (1H, m); 7.32 (1H, m); 7.82 (2H, d); 8.01 (2H, d); 8.37 (1H, t); 12.10 (1H, s).

reactant | N-([(5S)-N-(4-[1-(2-trimethylsilylethoxymethyl)pyrrol-2-ylcarbonyl]phenyl)-2-oxooxazolidin-5-yl]methyl)acetamide | 1.72 mM, 0.79 g | C[Si](CCOCN1C(=CC=C1)C(=O)C1=CC=C(C=C1)N1C(O[C@H](C1)CNC(C)=O)=O)(C)C | C23H31N3O5Si
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | THF | 1 M | C1CCOC1 | C4H8O
product | N-([(5S)-N-(4-[pyrrol-2-ylcarbonyl]phenyl)-2-oxooxazolidin-5-yl]methyl)acetamide | 0.16 g | N1C(=CC=C1)C(=O)C1=CC=C(C=C1)N1C(O[C@H](C1)CNC(C)=O)=O | C17H17N3O4
